US07572820B2
1-{[5-(5-Bromo-3-pyridinyl)-1,3,4-oxadiazol-2-yl]methyl}-2-(difluoromethyl)-1H-indole-4,5-dicarbonitrile
Synthesized as described in Example 23 from 2-(difluoromethyl)-1H-indole-4,5-dicarbonitrile and 3-bromo-5-[5-(chloromethyl)-1,3,4-oxadiazol-2-yl]pyridine: MS (ES) m/z 455 and 457 (M+1 Br isotopes).

reactant | 2-(difluoromethyl)-1H-indole-4,5-dicarbonitrile | FC(C=1NC2=CC=C(C(=C2C1)C#N)C#N)F | C11H5F2N3
reactant | 3-bromo-5-[5-(chloromethyl)-1,3,4-oxadiazol-2-yl]pyridine | BrC=1C=NC=C(C1)C=1OC(=NN1)CCl | C8H5BrClN3O
product | 1-{[5-(5-Bromo-3-pyridinyl)-1,3,4-oxadiazol-2-yl]methyl}-2-(difluoromethyl)-1H-indole-4,5-dicarbonitrile | BrC=1C=C(C=NC1)C1=NN=C(O1)CN1C(=CC2=C(C(=CC=C12)C#N)C#N)C(F)F | C19H9BrF2N6O
